US08445510B2
tert-Butyl 4-[5-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate
To a solution of tert-butyl 4-(4-iodo-5-methyl-1H-pyrazol-1-yl)piperidine-1-carboxylate (700.0 mg, 1.789 mmol) in THF (20 mL, 300 mmol) at rt was added 1.3 M of isopropylmagnesium chloride in THF (5.5 mL, 7.2 mmol), and the mixture was stirred for 1 h. The reaction was quenched with 2-methoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (1.5 mL, 8.9 mmol), and allowed to stir at rt for 2 h. Water was added, and the organic solvent was removed in vacuo. The material was extracted with DCM and water. The organic layer was dry-loaded onto silica gel for column chromatography, eluting with 10% EtOAc/heptane. The fractions containing the pure product were concentrated in vacuo to afford the title compound as a white solid. 1H NMR (400 MHz, CD3OD): δ=1.30 (s, 12H), 1.48 (s, 9H), 1.84 (d, J=10.4 Hz, 2H), 1.99 (dtd, J=12.6, 12.3, 12.3, 4.5 Hz, 2H), 2.47 (s, 3H), 2.94 (br. s., 2H), 4.21 (d, J=13.6 Hz, 2H), 4.30-4.42 (m, 1H), 7.57 (s, 1H). MS (ES+): m/z=391.26/392.26/393.27 (50/100/50) [MH+]. HPLC: tR=1.70 min (polar—3 min, UPLC-ACQUITY).

reactant | tert-butyl 4-(4-iodo-5-methyl-1H-pyrazol-1-yl)piperidine-1-carboxylate | 1.789 mmol, 700.0 mg | IC=1C=NN(C1C)C1CCN(CC1)C(=O)OC(C)(C)C | C14H22IN3O2
reactant | THF | 300 mmol, 20 mL | C1CCOC1 | C4H8O
reactant | isopropylmagnesium chloride | 1.3 M | C(C)(C)[Mg]Cl
reactant | THF | 7.2 mmol, 5.5 mL | C1CCOC1 | C4H8O
reactant | 2-methoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 8.9 mmol, 1.5 mL | COB1OC(C(O1)(C)C)(C)C | C7H15BO3
solvent | Water | O | H2O
product | tert-Butyl 4-[5-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate | CC1=C(C=NN1C1CCN(CC1)C(=O)OC(C)(C)C)B1OC(C(O1)(C)C)(C)C | C20H34BN3O4
